US08809331B2
A mixture of 5-methoxy-2-methyl-4-nitrobenzonitrile (2.0 g, 10.4 mmol) in AcOH (20 mL), water (20 mL) and conc. sulfuric acid (20 mL) was heated to 120° C. for 10 h. Water (100 mL) and DCM (100 mL) were added and the mixture was passed through a hydrophobic frit. The solvent was removed in vacuo to give 5-methoxy-2-methyl-4-nitrobenzoic acid (2.0 g, 91%) as an off-white solid. LCMS (10 cm_ESCI_Formic_MeCN): [M−H]−=210 at 3.37 min. 1H NMR (400 MHz, CDCl3): δ 7.75 (s, 1H), 7.70 (s, 1H), 3.99 (s, 3H), 2.62 (s, 3H).

reactant | 5-methoxy-2-methyl-4-nitrobenzonitrile | 10.4 mmol, 2.0 g | COC=1C(=CC(=C(C#N)C1)C)[N+](=O)[O-] | C9H8N2O3
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
reactant | AcOH | 20 mL | CC(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | Water | 100 mL | O | H2O
product | 5-methoxy-2-methyl-4-nitrobenzoic acid | 2.0 g, 91% | COC=1C(=CC(=C(C(=O)O)C1)C)[N+](=O)[O-] | C9H9NO5
